US08604034B2
To a solution of 7-azido-10a-(4-methoxyphenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (50 mg, 0.116 mmol) in DMF (2.5 mL) at 0° C. was added ethynyl-trimethyl-silane (33 μL, 0.23 mmol) followed by ethyl-diisopropyl-amine (24 μL, 0.14 mmol) and copper iodide (11 mg) and the mixture was stirred at 0° C. After one hour the reaction was complete (monitored by LCMS). A saturated aqueous solution of NH4Cl containing a drop of ammonia was added and the mixture extracted with EtOAc (3 times). The organics were washed with brine, dried (Na2SO4), filtrated and concentrated in vacuo. The resulting material was purified by flash chromatography (Biotage SP4, gradient 50-100% EtOAc in hexanes 10 CV; hold 100% EtOAc 7CV) to give 10a-(4-methoxyphenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-7-[4-(trimethylsilyl)-1H-1,2,3-triazol-1-yl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (14 mg, yield: 23%). ESI-MI m/z [M+H]+ 532.2.

reactant | 7-azido-10a-(4-methoxyphenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.116 mmol, 50 mg | N(=[N+]=[N-])C=1C=C2N(CC3(N(C2=O)CCN3C(=O)C=3C(=NOC3)C)C3=CC=C(C=C3)OC)C1 | C21H19N7O4
reactant | ethynyl-trimethyl-silane | 0.23 mmol, 33 μL | C(#C)[Si](C)(C)C | C5H10Si
reactant | ethyl-diisopropyl-amine | 0.14 mmol, 24 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | NH4Cl | [NH4+].[Cl-]
reactant | ammonia | N | H3N
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
catalyst | copper iodide | 11 mg | [Cu](I)I
product | 10a-(4-methoxyphenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-7-[4-(trimethylsilyl)-1H-1,2,3-triazol-1-yl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 14 mg, yield: 23% | COC1=CC=C(C=C1)C12N(C(C=3N(C1)C=C(C3)N3N=NC(=C3)[Si](C)(C)C)=O)CCN2C(=O)C=2C(=NOC2)C | C26H29N7O4Si
